US07307094B2
A mixture of 2-(5,6-dihydro-4H-cyclopenta[b]thiophen-2-yl)benzo[d]oxazole-4-carboxylic acid (90 mg, 0.32 mmol), 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride (86 mg, 0.38 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (122 mg, 0.64 mmol) and 1-hydroxybenzotriazole (86 mg, 0.64 mmol) in DMF (5 mL) was stirred under nitrogen at room temperature for 10 min, and then triethylamine (0.27 mL, 1.92 mmol) was added. The resulting reaction mixture was stirred at room temperature overnight, and then was quenched with a saturated solution of sodium bicarbonate, extracted with methylene chloride. The combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 90:9:1 ethyl acetate/methanol/concentrated ammonium hydroxide) and semi-preparative HPLC to afford N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-2-(5,6-dihydro-4H-cyclopenta[b]thiophen-2-yl)benzoxazole-4-carboxamide (55 mg, 41%) as a light yellow solid: 1H NMR (500 MHz, CDCl3) δ 9.01 (d, J=7.5 Hz, 1H), 8.16 (dd, J=8.0, 1.0 Hz, 1H), 7.65 (s, 1H), 7.61 (dd, J=8.0, 1.0 Hz, 1H), 7.39 (t, J=8.0 Hz, 1H), 4.60-4.50 (m, 1H), 3.10 (d, J=10.0 Hz, 2H), 3.03-3.00 (m, 2H), 2.86-2.82 (m, 2H), 2.65-2.52 (m, 4H), 2.54 (s, 3H), 2.18-1.96 (m, 3H), 1.62-1.46 (m, 3H), 1.25-1.18 (m, 2H); MS (ESI+) m/z 422 (M+H); HPLC>99% (AUC), tR=13.28 min.

reactant | 2-(5,6-dihydro-4H-cyclopenta[b]thiophen-2-yl)benzo[d]oxazole-4-carboxylic acid | 0.32 mmol, 90 mg | S1C2=C(C=C1C=1OC=3C(N1)=C(C=CC3)C(=O)O)CCC2 | C15H11NO3S
reactant | 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride | 0.38 mmol, 86 mg | Cl.Cl.NC1CC2CCCC(C1)N2C
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.64 mmol, 122 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.64 mmol, 86 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 1.92 mmol, 0.27 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-2-(5,6-dihydro-4H-cyclopenta[b]thiophen-2-yl)benzoxazole-4-carboxamide | 55 mg, 41% | CN1C2CC(CC1CCC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=CC2=C(S1)CCC2 | C24H27N3O2S
